US07816557B2
Racemic 3-{4-[1-(4-pentyloxy-phenoxy)-heptyl]-benzoylamino}-propionic acid
The title compound is prepared in a manner substantially similar to Example 92 starting from 3-{4-[1-(4-hydroxy-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester and 1-bromo-pentane. MS: 468.2 [M−H]−.

reactant | 3-{4-[1-(4-hydroxy-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)O)=O)=O | C24H31NO5
reactant | 1-bromo-pentane | BrCCCCC | C5H11Br
product | Racemic 3-{4-[1-(4-pentyloxy-phenoxy)-heptyl]-benzoylamino}-propionic acid | C(CCCC)OC1=CC=C(OC(CCCCCC)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C=C1 | C28H39NO5
